US05958942
3-Methyl-2-[5-(trifluoroacetamido)pentan-1-ylthio]-1,4,7b-triazacyclopent[cd]indene
To a solution of 275 mg (1.00 mmol) of 3-methyl-2-[5-(amino)pentan-1-ylthio]-1,4,7b-triazacyclopent[cd]indene in 30 ml of acetonitrile were added 0.19 ml (1.36 mmol) of triethylamine and 171 mg (1.20 mmol) of ethyl ester of trifluoroacetic acid. The mixture was stirred for 15 hours at room temperature. The solvent was distilled off. To the residue was added ethyl acetate, which was washed with water, and dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography (eluent: ethyl acetate) to afford 267 mg (72.0%, a pale yellow solid) of the desired compound.

reactant | 3-methyl-2-[5-(amino)pentan-1-ylthio]-1,4,7b-triazacyclopent[cd]indene | 1.00 mmol, 275 mg | CC=1N=C2N3C1C(=NC3=CC=C2)SCCCCCN | C14H18N4S
reactant | triethylamine | 1.36 mmol, 0.19 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl ester of trifluoroacetic acid | 1.20 mmol, 171 mg | CCOC(=O)C(F)(F)F | C4H5F3O2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 3-Methyl-2-[5-(trifluoroacetamido)pentan-1-ylthio]-1,4,7b-triazacyclopent[cd]indene | CC=1N=C2N3C1C(=NC3=CC=C2)SCCCCCNC(C(F)(F)F)=O | C16H17F3N4OS
